US04616086
3-[4-(1-n-Hexadecylpiperazin-4-yl)-phenyl]-propionic acid
A mixture of 16.0 g. (30 mmole) n-butyl 3-[4-(1-n-hexadecylpiperazin-4-yl)-phenyl]-propionate, 125 ml. 1N aqueous sodium hydroxide solution and 125 ml. methanol is stirred for 6 hours at 60° C. and the methanol subsequently distilled off. Crystals precipitate out from the cold aqueous phase, which are filtered off with suction and washed with water. They are dissolved in hot water and the hydrochloride is precipitated with 2N hydrochloric acid. After suction filtration, washing with water and drying, the yield is 13.0 g. (85% of theory); m.p. 218°-220° C. When recrystallised from methanol, with the addition of a little water, the hydrochloride melts at 219°-221° C.

reactant | n-butyl 3-[4-(1-n-hexadecylpiperazin-4-yl)-phenyl]-propionate | 30 mmole | C(CCCCCCCCCCCCCCC)N1CCN(CC1)C1=CC=C(C=C1)CCC(=O)OCCCC | C33H58N2O2
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | methanol | CO | CH4O
product | 3-[4-(1-n-Hexadecylpiperazin-4-yl)-phenyl]-propionic acid | C(CCCCCCCCCCCCCCC)N1CCN(CC1)C1=CC=C(C=C1)CCC(=O)O | C29H50N2O2
